US06818649B2
8-Ethoxy-4-(1-hydroxy-1-methyl-ethyl)-2,2-dimethyl-2H-chromene-6-carbaldehyde
The above prepared 2-(6-[1,3]dioxolan-2-yl-8-ethoxy-2,2-dimethyl-2H-chromen-4-yl)-propan-2-ol was dissolved in 6 ml of methanol and 3 ml of water and treated with 54 mg of pyridinium p-toluenesulfonate. After 15 min. at room temperature, the reaction mixture was poured onto crushed ice/AcOEt, the organic layer washed with water, dried over magnesium sulfate and evaporated to dryness. Flash chromatography (SiO2 with n-hexane/AcOEt=7/3) yielded 194 mg of the title compound as colourless oil.

reactant | 2-(6-[1,3]dioxolan-2-yl-8-ethoxy-2,2-dimethyl-2H-chromen-4-yl)-propan-2-ol | O1C(OCC1)C=1C=C2C(=CC(OC2=C(C1)OCC)(C)C)C(C)(C)O | C19H26O5
reactant | water | 3 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 54 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 6 ml | CO | CH4O
product | 8-Ethoxy-4-(1-hydroxy-1-methyl-ethyl)-2,2-dimethyl-2H-chromene-6-carbaldehyde | 194 mg | C(C)OC=1C=C(C=C2C(=CC(OC12)(C)C)C(C)(C)O)C=O | C17H22O4
